US07541372B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-5-thiophen-3-yl-[1,3,4]oxadiazole
As described for example 121, 5-methyl-3-phenylisoxazole-4-carboxylic acid (357 mg, 1.76 mmol) using thiophene-3-carboxylic acid hydrazide instead of thiophene-2-carboxylic acid hydrazide was converted to the title compound (SiO2, heptane:ethyl acetate=90:10 to 60:40, 207 mg, 38%) which was obtained as a yellow semisolid. MS: m/e=310.3 [M+H]+.

reactant | 5-methyl-3-phenylisoxazole-4-carboxylic acid | 1.76 mmol, 357 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C11H9NO3
reactant | thiophene-3-carboxylic acid hydrazide | S1C=C(C=C1)C(=O)NN | C5H6N2OS
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-5-thiophen-3-yl-[1,3,4]oxadiazole | 207 mg, 38% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1OC(=NN1)C1=CSC=C1 | C16H11N3O2S
